US07687515B2
C: 3-Amino-4-ethylamino-6-(3-trifluoromethyl-phenyl)-pyridine-2-carbonitrile
At 0° C., a solution of tin chloride dihydrate (30.2 g) in concentrate aqueous HCl (150 mL) was added dropwise over 2 hours to a solution of 4-ethylamino-3-nitro-6-(3-trifluoromethyl-phenyl)-pyridine-2-carbonitrile (5.0 g) in DMF (100 mL). The mixture was further stirred for 1 hour at 5° C., then poured to a mixture of ice (900 g) and potassium hydroxide (440 g), extracted with ethyl acetate (2×1.4 L). The combined organic layers were washed with brine (700 mL), dried over sodium sulfate, filtered and concentrated under reduced pressure to afford the title compound (4,56 g) as a solid. 1H NMR (DMSO-d6) δ: 8.30-8.20 (m, 2H); 7.75-7.60 (m, 2H); 7.08 (s, 1H); 6.11 (t, J=6 Hz, 1H); 5.95 (br. s, 2H); 3.4-3.3 (m, 2H); 1.27 (t, J=7 Hz, 3H).

reactant | tin chloride dihydrate | 30.2 g | O.O.[Sn](Cl)(Cl)(Cl)Cl
reactant | 4-ethylamino-3-nitro-6-(3-trifluoromethyl-phenyl)-pyridine-2-carbonitrile | 5.0 g | C(C)NC1=C(C(=NC(=C1)C1=CC(=CC=C1)C(F)(F)F)C#N)[N+](=O)[O-] | C15H11F3N4O2
reactant | potassium hydroxide | 440 g | [OH-].[K+]
solvent | HCl | 150 mL | Cl | ClH
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | 3-Amino-4-ethylamino-6-(3-trifluoromethyl-phenyl)-pyridine-2-carbonitrile | 4,56 g | NC=1C(=NC(=CC1NCC)C1=CC(=CC=C1)C(F)(F)F)C#N | C15H13F3N4
